US07456164B2
To a stirred suspension of LiAlH4 (3.7 g, 96.7 mmol) in diethyl ether (100 mL) cooled at 0° C. was added dropwise a solution of 4-(3-methoxyphenyl)-tetrahydro-pyran-4-carbonitrile (4.2 g, 19.3 mmol) in diethyl ether (100 mL). After being stirred at room temperature for 30 min, the reaction mixture was refluxed for another 15 min. The mixture was cooled to 10° C. and water, sodium hydroxide (15% w/v in water, 0.48 mL) and water again were successively added dropwise. After being stirred for 15 min at room temperature, the mixture was filtered over diatomaceous earth and concentrated. The residue was purified with flash chromatography (DCM/MeOH: 95/5) to provide (4-(3-methoxyphenyl)tetrahydro-pyran-4-yl]methylamine (4 g, 94%).

reactant | LiAlH4 | 96.7 mmol, 3.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(3-methoxyphenyl)-tetrahydro-pyran-4-carbonitrile | 19.3 mmol, 4.2 g | COC=1C=C(C=CC1)C1(CCOCC1)C#N | C13H15NO2
reactant | water | O | H2O
reactant | sodium hydroxide | 0.48 mL | [OH-].[Na+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | (4-(3-methoxyphenyl)tetrahydro-pyran-4-yl]methylamine | 4 g, 94% | COC=1C=C(C=CC1)C1(CCOCC1)CN | C13H19NO2
